US07432270B2
(RS) 2-(Pyrimidin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
A mixture of (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester (1.28 g) and 2-chloropyrimidine was heated at 100° C. for 48 hours. After cooling to room temperature the mixture was column chromatographed (silica gel, 0-10% (9:1 methanol/ammonia) in dichloromethane eluant) to give the title compound (0.42 g) as an oil.

reactant | (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 1.28 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | (RS) 2-(Pyrimidin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.42 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC=CC=N1 | C15H24N4O2
